US07745636B2
(S)-2-methyl-1-(5-(4′-(2-((S)-pyrrolidin-2-yl)-1H-imidazol-5-yl)biphenyl-4-yl)-1H-imidazol-2-yl)propan-1-amine
To a solution of (S)-tert-butyl 2-(5-(4′-(2-((S)-1-(tert-butoxycarbonylamino)-2-methylpropyl)-1H-imidazol-5-yl)biphenyl-4-yl)-1H-imidazol-2-yl)pyrrolidine-1-carboxylate (2.05 g, 3.27 mmol) in CH2Cl2 (20 mL) was added TFA (5 mL, 64.9 mmol) and the solution was allowed to stir for 2 h. The solvents were removed in vacuo, the residue was dissolved in CH2Cl2: MeOH (1:1) (ca. 10 mL) and absorbed onto an MCX cation exchange cartridge (Oasis). The resin was washed with MeOH and the desired material was released by elution with NH3 in MeOH (2M). The solvents were removed in vacuo to afford the title compound (0.622 g, 91%) as a yellow foam which was sufficiently pure for use in subsequent steps. 1HNMR (500 MHz, CD3OD) δ 7.85-7.88 (m, 4H), 7.75 (m, app d, J=8.2 Hz, 4H), 7.70 (app d, J=5.8 Hz, 2H), 4.96 (t, J=8.2 Hz, 1H), 4.30 (d, J=8.5 Hz, 1H), 3.54-3.57 (m, 1H), 3.47-3.52 (m, 1H), 2.55-2.62 (m, 1H), 2.38-2.46 (m, 1H), 2.28-2.36 (m, 1H), 2.15-2.24 (m, 1H), 1.17 (d, J=6.7 Hz, 3H), 0.94 (d, J=6.7 Hz, 3H). LCMS: Anal. Calcd. for C26H30N6: 426; found: 427 (M+H)+.

reactant | (S)-tert-butyl 2-(5-(4′-(2-((S)-1-(tert-butoxycarbonylamino)-2-methylpropyl)-1H-imidazol-5-yl)biphenyl-4-yl)-1H-imidazol-2-yl)pyrrolidine-1-carboxylate | 3.27 mmol, 2.05 g | C(C)(C)(C)OC(=O)N[C@@H](C(C)C)C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=CN=C(N1)[C@H]1N(CCC1)C(=O)OC(C)(C)C | C36H46N6O4
reactant | TFA | 64.9 mmol, 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-methyl-1-(5-(4′-(2-((S)-pyrrolidin-2-yl)-1H-imidazol-5-yl)biphenyl-4-yl)-1H-imidazol-2-yl)propan-1-amine | 0.622 g, 91% | CC([C@H](N)C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=CN=C(N1)[C@H]1NCCC1)C | C26H30N6
